US05240938
Step A: Preparation of methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 0.50 g (2.65 mmol) of 3-chloro-4-hydroxy-5-methoxybenzaldehyde was alkylated with 0.668 g (2.92 mmol) of methyl 2-bromophenylacetate to afford 0.570 g (64%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chloro-4-hydroxy-5-methoxybenzaldehyde | 2.65 mmol, 0.50 g | ClC=1C=C(C=O)C=C(C1O)OC | C8H7ClO3
reactant | methyl 2-bromophenylacetate | 2.92 mmol, 0.668 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate | 0.570 g, 64% | ClC1=C(OC(C(=O)OC)C2=CC=CC=C2)C(=CC(=C1)CO)OC | C17H17ClO5
